* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.039548e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.857562e-01)*u*u + (3.015333e+00)*u + (1.515168e+01)),1.846324e+01),7.205838e+01)}
.param L_a = {min(max(exp((1.418781e-01)*u*u + (2.132883e+00)*u + (-4.522181e+00)),3.888700e-06),1.695089e-05)}
.param R_pl = {min(max(exp((-2.441036e-11)*u*u + (-4.842860e-10)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((1.288968e-04)*u*u + (3.404561e-03)*u + (2.232056e-02),5.617210e-04),2.961816e-03)}
.param G1 = {min(max((1.244755e-04)*u*u + (1.761540e-03)*u + (3.938383e-03),-2.116891e-03),-5.412411e-04)}
.param w1 = {min(max(exp((5.671434e-02)*u*u + (1.092956e+00)*u + (2.030492e+01)),3.456596e+06),3.784149e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((-1.140090e-15)*u*u + (-2.064686e-14)*u + (1.450419e+01)),1.981182e+06),2.001044e+06)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-4.909160e-02)*u*u + (-1.104095e+00)*u + (-1.563259e+01)),5.236721e-05),8.039374e-05)}
.param gn1 = {min(max(exp((-1.910766e-01)*u*u + (-3.119905e+00)*u + (-1.265888e+01)),2.791351e-01),1.081512e+00)}
.param gn2 = {min(max(exp((-1.840243e-01)*u*u + (-2.990476e+00)*u + (-1.333272e+01)),8.008146e-02),3.060994e-01)}
.param gn3 = {min(max(exp((-2.074474e-01)*u*u + (-3.419824e+00)*u + (-1.635055e+01)),2.627427e-02),1.051952e-01)}
.param gn4 = {min(max(exp((-1.713247e-01)*u*u + (-2.757983e+00)*u + (-1.398147e+01)),1.496162e-02),5.572766e-02)}
.param gn5 = {min(max(exp((1.299477e-01)*u*u + (2.699195e+00)*u + (1.106293e+00)),2.521346e-06),4.387684e-06)}
.param gn6 = {min(max(exp((-1.155309e-02)*u*u + (-1.423038e-01)*u + (-1.709684e+01)),4.508905e-08),5.553061e-08)}
.param vreg = {min(max((2.631410e-04)*u*u + (3.614402e-03)*u + (9.151478e-01),9.032537e-01),9.068639e-01)}
.param COUT=1.296476e-10 ESR=1.162456e+02    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-6.501915e-03,1.000000e-06,-2.233131e-03,1.300000e-05,-1.035745e-03,2.500000e-05,-2.628552e-04,3.700000e-05,3.278828e-04,4.900000e-05,8.171278e-04,6.100000e-05,1.241798e-03,7.300000e-05,1.621944e-03,8.500000e-05,1.969713e-03,9.700000e-05,2.293045e-03,1.090000e-04,2.597437e-03,1.210000e-04,2.886856e-03,1.330000e-04,3.164268e-03,1.450000e-04,3.431951e-03,1.570000e-04,3.691693e-03,1.690000e-04,3.944921e-03,1.810000e-04,4.192795e-03,1.930000e-04,4.436266e-03,2.050000e-04,4.676125e-03,2.170000e-04,4.913033e-03,2.290000e-04,5.147551e-03,2.410000e-04,5.380153e-03,2.530000e-04,5.611249e-03,2.650000e-04,5.841189e-03,2.770000e-04,6.070278e-03,2.890000e-04,6.298784e-03,3.010000e-04,6.526940e-03,3.130000e-04,6.754952e-03,3.250000e-04,6.983004e-03,3.370000e-04,7.211259e-03,3.490000e-04,7.439865e-03,3.610000e-04,7.668954e-03,3.730000e-04,7.898648e-03,3.850000e-04,8.129060e-03,3.970000e-04,8.360292e-03,4.090000e-04,8.592441e-03,4.210000e-04,8.825598e-03,4.330000e-04,9.059851e-03,4.450000e-04,9.295282e-03,4.570000e-04,9.531974e-03,4.690000e-04,9.770006e-03,4.810000e-04,1.000946e-02,4.930000e-04,1.016790e-02,5.010000e-04,1.057195e-02,5.210000e-04,1.098069e-02,5.410000e-04,1.139453e-02,5.610000e-04,1.181391e-02,5.810000e-04,1.223931e-02,6.010000e-04,1.267128e-02,6.210000e-04,1.311045e-02,6.410000e-04,1.355754e-02,6.610000e-04,1.401340e-02,6.810000e-04,1.447903e-02,7.010000e-04,1.495565e-02,7.210000e-04,1.544472e-02,7.410000e-04,1.594804e-02,7.610000e-04,1.646784e-02,7.810000e-04,1.700692e-02,8.010000e-04,1.756883e-02,8.210000e-04,1.815815e-02,8.410000e-04,1.878075e-02,8.610000e-04,1.944425e-02,8.810000e-04,2.015845e-02,9.010000e-04,2.093583e-02,9.210000e-04,2.179180e-02,9.410000e-04,2.274448e-02,9.610000e-04,2.381346e-02,9.810000e-04,2.501739e-02,1.001000e-03,2.637062e-02,1.021000e-03,2.788021e-02,1.041000e-03,2.954482e-02,1.061000e-03,3.135589e-02,1.081000e-03,3.330037e-02,1.101000e-03,3.536333e-02,1.121000e-03,3.753003e-02,1.141000e-03,3.978693e-02,1.161000e-03,4.212213e-02,1.181000e-03,4.452546e-02,1.201000e-03,4.698831e-02,1.221000e-03,4.950346e-02,1.241000e-03,5.206485e-02,1.261000e-03,5.466740e-02,1.281000e-03,5.730684e-02,1.301000e-03,5.997956e-02,1.321000e-03,6.268250e-02,1.341000e-03,6.541307e-02,1.361000e-03,6.816903e-02,1.381000e-03,7.094848e-02,1.401000e-03,7.374977e-02,1.421000e-03,7.657148e-02,1.441000e-03,7.941238e-02,1.461000e-03,8.227138e-02,1.481000e-03,8.514755e-02,1.501000e-03,8.804006e-02,1.521000e-03,9.094819e-02,1.541000e-03,9.387132e-02,1.561000e-03,9.680888e-02,1.581000e-03,9.976038e-02,1.601000e-03,1.027254e-01,1.621000e-03,1.057036e-01,1.641000e-03,1.086946e-01,1.661000e-03,1.116981e-01,1.681000e-03,1.147139e-01,1.701000e-03,1.177418e-01,1.721000e-03,1.207816e-01,1.741000e-03,1.238332e-01,1.761000e-03,1.268964e-01,1.781000e-03,1.299711e-01,1.801000e-03,1.330573e-01,1.821000e-03,1.361550e-01,1.841000e-03,1.392641e-01,1.861000e-03,1.423846e-01,1.881000e-03,1.455165e-01,1.901000e-03,1.486598e-01,1.921000e-03,1.518147e-01,1.941000e-03,1.549812e-01,1.961000e-03,1.581593e-01,1.981000e-03,1.613493e-01,2.001000e-03,1.645512e-01,2.021000e-03,1.677651e-01,2.041000e-03,1.709912e-01,2.061000e-03,1.742297e-01,2.081000e-03,1.774808e-01,2.101000e-03,1.807447e-01,2.121000e-03,1.840216e-01,2.141000e-03,1.873117e-01,2.161000e-03,1.906153e-01,2.181000e-03,1.939327e-01,2.201000e-03,1.972641e-01,2.221000e-03,2.006099e-01,2.241000e-03,2.039703e-01,2.261000e-03,2.073457e-01,2.281000e-03,2.107364e-01,2.301000e-03,2.141429e-01,2.321000e-03,2.175654e-01,2.341000e-03,2.210044e-01,2.361000e-03,2.244604e-01,2.381000e-03,2.279337e-01,2.401000e-03,2.314248e-01,2.421000e-03,2.349342e-01,2.441000e-03,2.384624e-01,2.461000e-03,2.420100e-01,2.481000e-03,2.455774e-01,2.501000e-03,2.491654e-01,2.521000e-03,2.527744e-01,2.541000e-03,2.564051e-01,2.561000e-03,2.600583e-01,2.581000e-03,2.637346e-01,2.601000e-03,2.674348e-01,2.621000e-03,2.711597e-01,2.641000e-03,2.749101e-01,2.661000e-03,2.786868e-01,2.681000e-03,2.824909e-01,2.701000e-03,2.863234e-01,2.721000e-03,2.901851e-01,2.741000e-03,2.940774e-01,2.761000e-03,2.980013e-01,2.781000e-03,3.019582e-01,2.801000e-03,3.059493e-01,2.821000e-03,3.099761e-01,2.841000e-03,3.140401e-01,2.861000e-03,3.181429e-01,2.881000e-03,3.222864e-01,2.901000e-03,3.264723e-01,2.921000e-03,3.307026e-01,2.941000e-03,3.349796e-01,2.961000e-03,3.393056e-01,2.981000e-03,3.436830e-01,3.001000e-03,3.481146e-01,3.021000e-03,3.526033e-01,3.041000e-03,3.571524e-01,3.061000e-03,3.617652e-01,3.081000e-03,3.664455e-01,3.101000e-03,3.711975e-01,3.121000e-03,3.760255e-01,3.141000e-03,3.809345e-01,3.161000e-03,3.859299e-01,3.181000e-03,3.910174e-01,3.201000e-03,3.962037e-01,3.221000e-03,4.014957e-01,3.241000e-03,4.069014e-01,3.261000e-03,4.124293e-01,3.281000e-03,4.180892e-01,3.301000e-03,4.238915e-01,3.321000e-03,4.298482e-01,3.341000e-03,4.360618e-01,3.361000e-03,4.423758e-01,3.381000e-03,4.488887e-01,3.401000e-03,4.556187e-01,3.421000e-03,4.625856e-01,3.441000e-03,4.698117e-01,3.461000e-03,4.773213e-01,3.481000e-03,4.851412e-01,3.501000e-03,4.933005e-01,3.521000e-03,5.018308e-01,3.541000e-03,5.107657e-01,3.561000e-03,5.201404e-01,3.581000e-03,5.299915e-01,3.601000e-03,5.403553e-01,3.621000e-03,5.512670e-01,3.641000e-03,5.627594e-01,3.661000e-03,5.748608e-01,3.681000e-03,5.875937e-01,3.701000e-03,6.009737e-01,3.721000e-03,6.150084e-01,3.741000e-03,6.296974e-01,3.761000e-03,6.450333e-01,3.781000e-03,6.610020e-01,3.801000e-03,6.775852e-01,3.821000e-03,6.947614e-01,3.841000e-03,7.125079e-01,3.861000e-03,7.308016e-01,3.881000e-03,7.496201e-01,3.901000e-03,7.689421e-01,3.921000e-03,7.887479e-01,3.941000e-03,8.090188e-01,3.961000e-03,8.297376e-01,3.981000e-03,8.508879e-01,4.001000e-03,8.724540e-01,4.021000e-03,8.944211e-01,4.041000e-03,9.167744e-01,4.061000e-03,9.394995e-01,4.081000e-03,9.625822e-01,4.101000e-03,9.860088e-01,4.121000e-03,1.009765e+00,4.141000e-03,1.033838e+00,4.161000e-03,1.058065e+00,4.181000e-03,1.082736e+00,4.201000e-03,1.107685e+00,4.221000e-03,1.132898e+00,4.241000e-03,1.158362e+00,4.261000e-03,1.184065e+00,4.281000e-03,1.209995e+00,4.301000e-03,1.236141e+00,4.321000e-03,1.262491e+00,4.341000e-03,1.289034e+00,4.361000e-03,1.315760e+00,4.381000e-03,1.342658e+00,4.401000e-03,1.369720e+00,4.421000e-03,1.396934e+00,4.441000e-03,1.424294e+00,4.461000e-03,1.451789e+00,4.481000e-03,1.479411e+00,4.501000e-03,1.507153e+00,4.521000e-03,1.535007e+00,4.541000e-03,1.562965e+00,4.561000e-03,1.591022e+00,4.581000e-03,1.619169e+00,4.601000e-03,1.647402e+00,4.621000e-03,1.675713e+00,4.641000e-03,1.704098e+00,4.661000e-03,1.732551e+00,4.681000e-03,1.761066e+00,4.701000e-03,1.789639e+00,4.721000e-03,1.818265e+00,4.741000e-03,1.846940e+00,4.761000e-03,1.875660e+00,4.781000e-03,1.904419e+00,4.801000e-03,1.933215e+00,4.821000e-03,1.962045e+00,4.841000e-03,1.990904e+00,4.861000e-03,2.019789e+00,4.881000e-03,2.048697e+00,4.901000e-03,2.077626e+00,4.921000e-03,2.106571e+00,4.941000e-03,2.135532e+00,4.961000e-03,2.164505e+00,4.981000e-03,2.193488e+00,5.001000e-03,2.222478e+00,5.021000e-03,2.251474e+00,5.041000e-03,2.280473e+00,5.061000e-03,2.309473e+00,5.081000e-03,2.338473e+00,5.101000e-03,2.367471e+00,5.121000e-03,2.396465e+00,5.141000e-03,2.425453e+00,5.161000e-03,2.454434e+00,5.181000e-03,2.483407e+00,5.201000e-03,2.512370e+00,5.221000e-03,2.541322e+00,5.241000e-03,2.570261e+00,5.261000e-03,2.599187e+00,5.281000e-03,2.628099e+00,5.301000e-03,2.656994e+00,5.321000e-03,2.685873e+00,5.341000e-03,2.714735e+00,5.361000e-03,2.743578e+00,5.381000e-03,2.772401e+00,5.401000e-03,2.801204e+00,5.421000e-03,2.829986e+00,5.441000e-03,2.858747e+00,5.461000e-03,2.887485e+00,5.481000e-03,2.916200e+00,5.501000e-03,2.944891e+00,5.521000e-03,2.973558e+00,5.541000e-03,3.002200e+00,5.561000e-03,3.030817e+00,5.581000e-03,3.059408e+00,5.601000e-03,3.087972e+00,5.621000e-03,3.116510e+00,5.641000e-03,3.145020e+00,5.661000e-03,3.173503e+00,5.681000e-03,3.201957e+00,5.701000e-03,3.230384e+00,5.721000e-03,3.258781e+00,5.741000e-03,3.287149e+00,5.761000e-03,3.315488e+00,5.781000e-03,3.343797e+00,5.801000e-03,3.372076e+00,5.821000e-03,3.400325e+00,5.841000e-03,3.428544e+00,5.861000e-03,3.456731e+00,5.881000e-03,3.484888e+00,5.901000e-03,3.513014e+00,5.921000e-03,3.541108e+00,5.941000e-03,3.569171e+00,5.961000e-03,3.597203e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 1.125885e-08        $ corner 14.14 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 1.137551e-09        $ corner 139.9 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 1.213903e-10        $ corner 1311 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 1.391620e-12        $ corner 1.144e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 6.958102e-13        $ corner 2.287e+05 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 7.068396e-16        $ corner 2.252e+08 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

